US04916146
6.65 g of L-thioproline was dissolved in 100 ml of 1N sodium hydroxide. After the addition of 50 ml of water to the solution, a solution prepared by dissolving 9.10 g of 4-phenylbutanoyl chloride in 50 ml of benzene was added dropwise with stirring. Subsequently, 50 ml of 1N sodium hydroxide was further added and the mixture was stirred overnight. The benzene layer was removed and the water layer was washed twice with 70 ml of ether. To this water layer was added 7% hydrochloric acid to acidify it, followed by extraction with 70 ml of ethyl acetate three times. The extract was dried over anhydrous sodium sulfate. Ethyl acetate was evaporated to obtain an oily residue, which was subjected to column chromatography on silica gel using chloroform-methanol as an eluent to obtain a fraction of 11.4 g of N-(4-phenylbutanoyl)-L-thioproline as colorless crystals.

reactant | L-thioproline | 6.65 g | N1[C@H](C(=O)O)CSC1 | C4H7NO2S
reactant | water | 50 ml | O | H2O
reactant | 4-phenylbutanoyl chloride | 9.10 g | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | N-(4-phenylbutanoyl)-L-thioproline | 11.4 g | C1(=CC=CC=C1)CCCC(=O)N1[C@H](C(=O)O)CSC1 | C14H17NO3S
